US09107916B2
B. 2-[3-methyl-5-(4-methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
To a solution of (2E)-3-(dimethylamino)-1-(4-methylphenyl)but-2-en-1-one (227 mg,1.1 mmol) and 2-hydrazinylisonicotinonitrile (150 mg, 1.1 mmol, PREPARATION 2) in 10 mL EtOH was added 2 mL AcOH. The reaction mixture was heated under reflux conditions overnight before being cooled and concentrated to dryness. The residue was adjusted to pH >8 with saturated aq. K2CO3 and then extracted with EtOAc (3×10 mL). The combined organic layers were washed with 20 mL brine, dried, and concentrated to dryness to give the title compound (170 mg, 55.6%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 2.38 (6H, s), 6.30 (1H, s), 7.15 (4H, s), 7.33 (1H, d, J=4.0 Hz), 7.78 (1H, s), 8.44 (1H, d, J=4.8 Hz). [M+H] Calc'd for C17H14N4, 275. Found, 275.

reactant | (2E)-3-(dimethylamino)-1-(4-methylphenyl)but-2-en-1-one | 1.1 mmol, 227 mg | CN(/C(=C/C(=O)C1=CC=C(C=C1)C)/C)C | C13H17NO
reactant | 2-hydrazinylisonicotinonitrile | 1.1 mmol, 150 mg | N(N)C=1C=C(C#N)C=CN1 | C6H6N4
reactant | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-[3-methyl-5-(4-methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 170 mg, 55.6% | CC1=NN(C(=C1)C1=CC=C(C=C1)C)C1=NC=CC(=C1)C#N | C17H14N4
